US06730707B2
Sodium hydride (10 mmol) is added to 1-(1H-Indole-4-yl)-ethanol(4 mmol) in DMF (7 mL). After stirring 20 minutes, iodomethane (10 mmol) is added and the mixture stirred an additional 2 hours. The reaction is then partitioned between water and ethyl acetate, the layers are separated, the ethyl acetate phase removed in vacuo, and the product dried under high vacuum. The residue is then dissolved in a small amount of alcohol, and 4-(1-methoxy-ethyl)-1-methyl-1H-indole isolated by chromatography on silica gel using chloroform-methanol as eluent. This product (2 mmol) is dissolved in ether (40 mL), oxalyl chloride (8 mmol) added dropwise and the mixture stirred 8 h at 24° C. The reaction vessel is then equipped with a Dewar condenser, chilled to 0° C., and anhydrous ammonia bubbled through the mixture during 1.5 h. The gas and solvent are removed in vacuo. The resulting solid is dissolved in ethyl acetate, extracted with brine, and the ethyl acetate phase dried with magnesium sulfate and evaporated. The material is dissolved in THF (15 mL) and treated with borane-THF (3 mL of 1 M solution) 16 h at 25° C. The reaction is neutralized with sodium bicarbonate and extracted with ethyl acetate. The ethyl acetate extract is next dried in vacuc, redissolved in ethanol (10 mL) and refluxed in the presence of cesium fluoride (380 mg) and sodium carbonate (350 mg). The mixture is filtered through Celite, evaporated and the residue chromatographed on silica gel using chloroform-methanol-ammonia (9:1:0.1) as eluent affording 2-[4-(1-methoxy-ethyl)-1-methyl-1H-indol-3-yl]-ethylamine. This material is dissolved in pyridine (6 mL) and treated with acetic anhydride (3 mL) to provide N-{2-[4-(1-methoxy-ethyl)-1-methyl-1H-indol-3-yl]ethyl}-acetamide. After drying 24 h at <0.1 mmHg, the compound (1 mmol) is taken into dichloromethane (2 mL). Ammonium nitrate (1.7 mmol) is added followed by trifluoroacetic anhydride (3 mmol)). The mixture is stirred overnight, then partitioned between cold, saturated sodium bicarbonate and chloroform. The organic phase is washed with water, dried with magnesium sulfate and evaporated to dryness. The N-{2-[4-(1-methoxy-ethyl)-1-methyl-5-nitro-1H-indol-3-yl]-ethyl}-acetamide is isolated by chromatography on silica gel using ethyl acetate-hexane as eluent, and finally transformed into the title compound by hydrogenation and formation of the methyl carbamate as described in previous examples.

reactant | Sodium hydride | 10 mmol | [H-].[Na+]
reactant | 1-(1H-Indole-4-yl)-ethanol | 4 mmol | N1C=CC2=C(C=CC=C12)C(C)O | C10H11NO
reactant | iodomethane | 10 mmol | IC | CH3I
reactant | oxalyl chloride | 8 mmol | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 7 mL | CN(C)C=O | C3H7NO
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | ether | 40 mL | CCOCC | C4H10O
product | 2-[4-(1-methoxy-ethyl)-1-methyl-1H-indol-3-yl]-ethylamine | COC(C)C1=C2C(=CN(C2=CC=C1)C)CCN | C14H20N2O
